US04328169
Ethyl acetoacetate was reacted with 1,4-dichlorobutene-2 in a manner similar to that described in Example III using a poly(oxypropylene) catalyst. For the reaction, 5.6 g potassium hydroxide and 50 mls. methylene dichloride were combined in the reaction vessel and ethyl acetoacetate (6.5 g), the poly(propylene glycol) catalyst (1.06 g) and 20 mls. methylene dichloride rapidly added with vigorous stirring. 1,4-Dibromobutene-2 (10.7 g) was then added via a solids addition funnel while maintaining the temperature at about 35° C. Seventy-four percent yield 1-carboethoxy-1-methylketo-2-vinylcyclopropane was obtained. The product had a boiling point of 58° C. at 0.85 mm Hg, refractive index (nD25) of 1.4707, and the structure was confirmed by infrared and proton nmr spectroscopy. When the process is repeated reacting 1,4-dichlorobutene-2 with phenylacetonitrile, ethyl phenylacetate and acetoacetanilide, 1-cyano-1-phenyl-2-vinylcyclopropane, 1-carboethoxy-1-phenyl-2-vinylcyclopropane, and 1-carboxanilido-1-methylketo-2-vinylcyclopropane are respectively obtained.

reactant | Ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | ethyl acetoacetate | 6.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methylene dichloride | C(Cl)Cl | CH2Cl2
catalyst | poly(oxypropylene) | O(CC(C)[*:2])[*:1]
product | 1-carboethoxy-1-methylketo-2-vinylcyclopropane | Seventy-four percent yield | C(=O)(OCC)C1(C(C1=O)C=C)C | C9H12O3
